Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left facial swelling
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
this a ___ with a PMHx of an unprovoked bilateral pulmonary 
emboli (in ___, on rivaroxaban) who presents from an OSH with 
left facial/neck/chest cellulitis. Patient arrived from ___ 
___, where he was vacationing and where he developed 
flu-like symptoms over the course of a few days (headache, body 
aches, fever; treated with Tamiflu and paracetamol as an 
outpatient), which resolved and were followed acutely by the 
development cellulitis (begun ___.

He noticed redness, swelling (like a "grapefruit"), warmth and 
tenderness just below the left eye that, over the course of a 
few days, progressed to involve his, left cheek, left lateral 
neck, and left upper anterior chest.

He presented to an OSH in ___, where he was diagnose with 
cellulitis, for which he was hospitalized. He was treated with 
IV abx (ceftriaxone, flagyl, clindamycin), which were converted 
to PO clindamycin and flagyl prior to his flight on ___. Per 
patient report, OSH CT and US did not demonstrate abscess or 
glandular involvement. 

He denied any ever having noticed any pustules, purulent 
drainage, or crepitus. He denied any visual changes, but did 
endorse L eye tearing, which he attributed to swelling from an 
inferior induration.

He denied any penetrating injury, animal bites, or suspicious 
ingestions.

The patient notes improvement of his redness, swelling, and 
tenderness since beginning antibiotics.

He also endorses 2 days of diarrhea (ongoing), which he 
described initially as "Porridge-like" and which is now more 
watery in consistency. He reports 2 BMs since arrival ___. 
He endorsed mild nausea, and attributes it and his diarrhea to 
antibiotics. He denied vomiting, abdominal pain, fevers/chills, 
headaches, hearing changes, myalgias, pharyngitis, SOB, 
difficulty breathing, dysphagia, CP, other skin changes.

 
Past Medical History:
DEPRESSIVE DISORDER 
MITRAL VALVE PROLAPSE 
REFLUX ESOPHAGITIS 
PULMONARY EMBOLISM 
H/O PNEUMONIA 
H/O VASOVAGAL SYNCOPE 
H/O PE
 
Social History:
___
Family History:
Father ___ with cerebral bleed at age ___ and possible seizure 
disorder. 
Mother is alive and well at ___.
One son age ___ who is an ___ ___ at ___. 
Has ___ younger sister who is alive and well.
 
Physical Exam:
Admission exam:
===============
Vital Signs: T: 97.6, BP: 128/78, HR: 64, RR: 18, O2 sat: 98% RA 
  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, neck supple, 
LAD of the posterior cervical chain; no lymphangitis
Lungs: clear to auscultation bilaterally; no 
wheezes/rales/rhonchi 
CV: Regular rate and rhythm, normal S1 and S2, no 
murmurs/rubs/gallops
Abdomen: soft, non-tender, non-distended, normoactive bowel 
sounds, no rebound or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: swelling (about the size of a quarter) and erythema of the 
left cheek receding from marking line drawn ___ erythema of 
the left anterolateral neck and left anterior upper chest around 
the clavicle and extending to approximately the 2nd rib space, 
also receding from marking lines drawn; warmth not appreciated; 
no obvious lesions or rashes otherwise
Neuro: CNII-XII and motor strength grossly intact, gait deferred 


Discharge exam:
===============
Vital Signs: 97.9135 / 77 71 18 99 Ra   
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric
Lungs: clear to auscultation bilaterally; no 
wheezes/rales/rhonchi 
CV: Regular rate and rhythm, normal S1 and S2, no 
murmurs/rubs/gallops
Abdomen: soft, non-tender, non-distended, normoactive bowel 
sounds
Ext: Warm, well perfused
Skin: induration of the left cheek continues to recede from 
marking line drawn ___
Neuro: CNII-XII and motor strength grossly intact, gait deferred 

 
Pertinent Results:
Admission labs:
===============
___ 11:30PM BLOOD WBC-5.0 RBC-3.83* Hgb-12.1*# Hct-35.7*# 
MCV-93 MCH-31.6 MCHC-33.9 RDW-13.2 RDWSD-45.3 Plt ___
___ 11:30PM BLOOD Neuts-64.8 ___ Monos-6.2 Eos-2.8 
Baso-0.2 Im ___ AbsNeut-3.22 AbsLymp-1.25 AbsMono-0.31 
AbsEos-0.14 AbsBaso-0.01
___ 11:30PM BLOOD ___ PTT-42.6* ___
___ 11:30PM BLOOD Glucose-110* UreaN-11 Creat-0.9 Na-139 
K-3.7 Cl-101 HCO3-27 AnGap-15
___ 11:30PM BLOOD ALT-25 AST-22 LD(LDH)-194 AlkPhos-66 
TotBili-0.2
___ 11:30PM BLOOD Calcium-8.7 Phos-3.2 Mg-2.2
___ 11:30PM BLOOD CRP-146.9*

Discharge labs:
===============
___ 06:10AM BLOOD Glucose-98 UreaN-7 Creat-0.8 Na-142 K-4.4 
Cl-105 HCO3-26 AnGap-15
___ 06:10AM BLOOD WBC-6.1 RBC-4.27* Hgb-13.6* Hct-39.8* 
MCV-93 MCH-31.9 MCHC-34.2 RDW-13.2 RDWSD-45.2 Plt ___

Micro:
======
MRSA screen ___ negative
Blood cultures ___ pending
Urine culture ___ negative
C diff ___ negative

Studies:
========
CT head w ___
 - No evidence of acute intracranial process.  Specifically, no 
abnormal areas of enhancement or abscess. 

CT neck w/ contrast ___.  Skin thickening and subcutaneous soft tissue edema overlying 
the inferior left maxilla and upper left mandible.  Findings far 
compatible with the given clinical diagnosis of cellulitis.  No 
evidence of subcutaneous emphysema or focal drainable fluid 
collection. 
2.  Prominent bilateral cervical lymphadenopathy, left greater 
than right, 
likely reactive in nature. 
 
Brief Hospital Course:
Mr. ___ is a ___ with a PMHx of unprovoked bilateral 
pulmonary emboli in ___ (on rivaroxaban) who presented from OSH 
with left facial/neck/chest warmth/swelling/tenderness/erythema. 


#Left facial cellulitis: was in ___ when he developed 
symptoms of diffuse erythema from left side of neck to left side 
of face. Was treated with IV antibiotics. Arrived to ___ from 
___ for further assessment. CT head and neck did not reveal 
fluid collection or subcutaneous emphysema. Findings most 
consistent with cellulitis and was placed on vancomycin and 
zosyn. ID consulted, transitioned to cephalexin with last doses 
on ___. Facial cellulitis continued to improve on examination 
and was discharged home. 

#Diarrhea: had loose stool since starting antibiotics in 
___. C diff negative in house. Diarrhea resolved prior to 
discharge. 

CHRONIC ISSUES:  
================ 
#History of bilateral pulmonary emboli: continued Xarelto 20 mg 
PO daily
#HLD: continued atorvastatin 10 mg PO daily
#Depression: continued Effexor 150 mg PO daily
#Health maintenance: continued vitamin D 1000 units daily 

TRANSITIONAL ISSUES
[]please ensure resolution of cellulitis
[]last doses of cephalexin on ___

# CODE: Full Code (confirmed)   
# CONTACT: ___ (Wife, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 20 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Venlafaxine XR 150 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*32 Capsule Refills:*0 
2.  Atorvastatin 10 mg PO QPM  
3.  Rivaroxaban 20 mg PO DAILY  
4.  Venlafaxine XR 150 mg PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
==============
Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at the ___. 

Why did you come to the hospital?
 - You were concerned about your skin infection that had not 
completely resolved

What did you receive in the hospital?
 - You received IV antibiotics for your skin infection and 
eventually transitioned to oral antibiotics. You were seen by 
the infection specialist who recommended the switch to oral 
antibiotics. 
 - You received head and neck imaging that did not find anything 
worrisome, which was reassuring. 
 
What should you do when you leave the hospital?
 - You should continue taking your oral antibiotic medicine with 
your last doses being on ___.
 - Please call your primary care doctor's office at ___ 
and schedule an appointment to see him within the next week or 
two.  
 - Please return to the emergency room if you start having 
troubles breathing, troubles swallowing, or increased 
swelling/pain/warmth of your skin infection.

We wish you the best, 
Your ___ Care Team
 
Followup Instructions:
___